US09422298B2
To a solution of 5-bromo-2-chloropyridin-3-amine (7.93 g, 38.2 mmol) in pyridine (76 mL) was drop wise added 2,4-difluorobenzene-1-sulfonyl chloride (20.3 g, 96.0 mmol) at 0° C. The mixture was stirred for 1 h at room temperature. The resulting solid was filtered, and washed with water, and dried under vacuum oven to give the N-(5-bromo-2-chloropyridin-3-yl)-N-(2,4-difluorophenylsulfonyl)-2,4-difluorobenzenesulfonamide (19.6 g, 90%) as a white solid, which was used for the next step without further purification.

reactant | 5-bromo-2-chloropyridin-3-amine | 38.2 mmol, 7.93 g | BrC=1C=C(C(=NC1)Cl)N | C5H4BrClN2
reactant | 2,4-difluorobenzene-1-sulfonyl chloride | 96.0 mmol, 20.3 g | FC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | pyridine | 76 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-bromo-2-chloropyridin-3-yl)-N-(2,4-difluorophenylsulfonyl)-2,4-difluorobenzenesulfonamide | 19.6 g, 90% | BrC=1C=C(C(=NC1)Cl)N(S(=O)(=O)C1=C(C=C(C=C1)F)F)S(=O)(=O)C1=C(C=C(C=C1)F)F | C17H8BrClF4N2O4S2
